US05849911
46b) 1-[4-(Pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane hydrochloride
Analogously to Example 37f), 130 ml of 4M HCl in dioxane are added to 4.4 g (6.94 mmol) of 1-[4-(pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-N-Boc-amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane and the mixture is diluted with 7 ml of DMF. After 2.75 hours, the mixture is worked up. The title compound is obtained: TLC: Rt =0.44 (methylene chloride/methanol: 9/1); HPLC20-100 : tRet =8.47; FAB MS (M+H)+ =534.

reactant | HCl | 4M, 130 ml | Cl | ClH
reactant | 1-[4-(pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-N-Boc-amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane | 6.94 mmol, 4.4 g | N1=C(C=CC=C1)C1=CC=C(C=C1)C(N(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)(C)C)=O)O)C(=O)OC(C)(C)C)N | C35H47N5O6
reactant | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-[4-(Pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane hydrochloride | Cl.N1=C(C=CC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)(C)C)=O)O)N | InChI=1S/C30H39N5O4.ClH/c1-30(2,3)27(34-29(38)39-4)28(37)33-25(18-21-10-6-5-7-11-21)26(36)20-35(31)19-22-13-15-23(16-14-22)24-12-8-9-17-32-24;/h5-17,25-27,36H,18-20,31H2,1-4H3,(H,33,37)(H,34,38);1H/t25-,26-,27+;/m0./s1
